US05498630
2-Chloro-N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)-6-(trimethylsilyl)benzamide
A solution of 1.3M s-BuLi in cyclohexane (3.53 mL, 4.59 mmol) was added to a dry ice/acetone cooled solution of TMEDA (639 mL, 4.23 mmol) and N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)-2-chlorobenzamide (1.0 g 3.53 mmol) in THF (7 mL). The resulting mixture was stirred at -78° C. for 45 min, then TMSCl (671 mL, 5.29 mmol) was added in a single portion. The reaction was allowed to warm to 0° C., and partitioned between ether and 10% HCl. The ether solution was then extracted with sat aq NaHCO3, dried (MgSO4), and purified by RC with 1:49 EtOAc/hexanes to afford 750 mg of the title compound as a white solid, a 60% yield. m.p. 82°-83° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 4.59 mmol, 3.53 mL | C1CCCCC1 | C6H12
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | TMEDA | 4.23 mmol, 639 mL | CN(C)CCN(C)C | C6H16N2
reactant | N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)-2-chlorobenzamide | 3.53 mmol, 1.0 g | C(C)N(C(C1=C(C=CC=C1)Cl)=O)C(C(C)(C)C)OC | C15H22ClNO2
reactant | TMSCl | 5.29 mmol, 671 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-Chloro-N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)-6-(trimethylsilyl)benzamide | 750 mg, 60% yield | ClC1=C(C(=O)N(C(C(C)(C)C)OC)CC)C(=CC=C1)[Si](C)(C)C | C18H30ClNO2Si
